US07939524B2
c) (2R,3S)-3-Benzyloxycarbonylamino-bicyclo[2.2.2]octane-2-carboxylic Acid Methyl Ester
(2S,3R)-Bicyclo[2.2.2]octane-2,3-dicarboxylic acid monomethyl ester (1.01 g, 4.76 mmol) was dissolved in anhydrous tetrahydrofuran (20 mL). The flask was degassed and backfilled with nitrogen and the mixture was cooled to 0° C. Triethylamine (1.99 mL, 14.28 mmol) was added followed by the dropwise addition of ethyl chloroformate (0.91 mL, 9.52 mmol) with vigorous stirring. The mixture was stirred at 0° C. for 1 h. Sodium azide (0.93 g, 14.28 mmol) was dissolved in water (5 mL) and added to the reaction mixture at 0° C. The mixture was stirred at 0° C. for 5 min. The ice bath was removed. The mixture was warmed to 25° C. and was stirred for 2 h. The mixture was poured into water (50 mL) and the product extracted into ethyl acetate (50 mL). The organic layer was further washed with half-saturated aqueous sodium bicarbonate solution (2×20 mL), saturated aqueous brine solution (20 mL), dried over magnesium sulfate, filtered, and concentrated in vacuo to afford a clear oil. The oil was dissolved in anhydrous benzene (10 mL) and refluxed while stirring under nitrogen for 2 h. Upon cooling to 25° C. the solution was concentrated in vacuo to afford a slightly yellow oil. The oil was dissolved in dichloromethane (10 mL) and benzyl alcohol (0.54 mL, 5.24 mmol) was added followed by triethylamine (1.33 mL, 9.52 mmol). The mixture was refluxed under nitrogen for 16 h. Upon cooling to 25° C. the solution was concentrated in vacuo to afford a golden oil. Purification by flash column chromatography (Teledyne Isco RediSep column; 0 to 20% ethyl acetate in hexanes) afforded the desired product, (2R,3S)-3-benzyloxycarbonylamino-bicyclo[2.2.2]octane-2-carboxylic acid methyl ester (0.58 g, 1.83 mmol, 38%), as a clear oil. 1H NMR (400 MHz, CDCl3) δ: 1.18-1.28 (2H, m), 1.42-1.50 (5H, m), 1.73-1.96 (3H, m), 2.88 (1H, d, J1=5.6 Hz), 3.27 (1H, s), 3.42 (3H, s), 4.00-4.04 (1H, m), 4.97 (2H, dd, J1=46.4 Hz, J2=12.8 Hz), 7.06 (1H, d, J=9.6 Hz), 7.24-7.34 (4H, m). LC-MS (ESI) calcd for C18H23NO4317.38, found 317.9 [M+H+].

reactant | (2S,3R)-Bicyclo[2.2.2]octane-2,3-dicarboxylic acid monomethyl ester | 4.76 mmol, 1.01 g | COC(=O)[C@H]1C2CCC([C@H]1C(=O)O)CC2 | C11H16O4
reactant | Triethylamine | 14.28 mmol, 1.99 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 9.52 mmol, 0.91 mL | ClC(=O)OCC | C3H5ClO2
reactant | Sodium azide | 14.28 mmol, 0.93 g | [N-]=[N+]=[N-].[Na+]
reactant | benzyl alcohol | 5.24 mmol, 0.54 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | triethylamine | 9.52 mmol, 1.33 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 5 mL | O | H2O
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (2R,3S)-3-benzyloxycarbonylamino-bicyclo[2.2.2]octane-2-carboxylic acid methyl ester | 1.83 mmol, 0.58 g, 38% | COC(=O)[C@@H]1C2CCC([C@@H]1NC(=O)OCC1=CC=CC=C1)CC2 | C18H23NO4
